US05939556
33c. Methyl (S)-(4-(4-(amino-imino-methyl)phenyl)-3,4-dimethyl-2,5-dioxo-imidazolidin-1-yl)acetate hydrochloride
2.26 g of methyl (S)-(4-(4-(ethoxy-imino-methyl)phenyl)-3,4-dimethyl-2,5-dioxoimidazolidin-1-yl)acetate hydrochloride (6.4 mmol) were suspended in 25 ml of isopropanol and treated with 7.2 ml of a 2N solution of ammonia in isopropanol. The reaction mixture was stirred at 50° C. for 2.5 hours. The mixture was cooled and then treated with 200 ml of diethyl ether. The precipitate was filtered off with suction and dried in a high vacuum.

reactant | methyl (S)-(4-(4-(ethoxy-imino-methyl)phenyl)-3,4-dimethyl-2,5-dioxoimidazolidin-1-yl)acetate hydrochloride | 6.4 mmol, 2.26 g | Cl.C(C)OC(C1=CC=C(C=C1)[C@@]1(N(C(N(C1=O)CC(=O)OC)=O)C)C)=N
reactant | ammonia | N | H3N
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | isopropanol | 25 ml | C(C)(C)O | C3H8O
product | Methyl (S)-(4-(4-(amino-imino-methyl)phenyl)-3,4-dimethyl-2,5-dioxo-imidazolidin-1-yl)acetate hydrochloride | Cl.NC(C1=CC=C(C=C1)[C@@]1(N(C(N(C1=O)CC(=O)OC)=O)C)C)=N | InChI=1S/C15H18N4O4.ClH/c1-15(10-6-4-9(5-7-10)12(16)17)13(21)19(8-11(20)23-3)14(22)18(15)2;/h4-7H,8H2,1-3H3,(H3,16,17);1H/t15-;/m0./s1
